US07205411B2
Following the same procedure as described in Example 1, (2-bromo-6-methyl-pyridin-3-yl)amine (200 mg, 1.07 mmol) reacted with (PPh3)2PdCl2 (37 mg, 0.05 mmol), Cul (10 mg, 0.05 mmol) and 1-ethynyl-3-methoxy-benzene (204 μl, 1.60 mmol) in triethylamine (5 ml) during 1.5 h. The crude residue was purified by flash chromatography (hexane/ethyl acetate 4:1) to yield 118 mg (0.50 mmol, 46%) of (2-(3-methoxy-phenylethynyl)-6-methyl-pyridin-3-yl)amine as a yellow brown solid.

reactant | (2-bromo-6-methyl-pyridin-3-yl)amine | 1.07 mmol, 200 mg | BrC1=NC(=CC=C1N)C | C6H7BrN2
reactant | 1-ethynyl-3-methoxy-benzene | 1.60 mmol, 204 μl | C(#C)C1=CC(=CC=C1)OC | C9H8O
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
catalyst | (PPh3)2PdCl2 | 0.05 mmol, 37 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (2-(3-methoxy-phenylethynyl)-6-methyl-pyridin-3-yl)amine | 0.50 mmol, 118 mg, 46% | COC=1C=C(C=CC1)C#CC1=NC(=CC=C1N)C | C15H14N2O
